US07015218B1
Further, 2-chloro-5-nitrobenzamide (100 g) was added to dimethylformamide (240 ml) and pyridine (100 ml). To the mixture was dropwise added benzenesulfonyl chloride at room temperature with stirring, and the mixture was stirred at 145° C. for 3 h. The reaction mixture was ice-cooled, and water (240 ml) was added thereto. The precipitated crystals were recrystallized from hydrous ethanol to give 2-chloro-5-nitrobenzonitrile (81.3 g), melting point: 108–110° C.

reactant | 2-chloro-5-nitrobenzamide | 100 g | ClC1=C(C(=O)N)C=C(C=C1)[N+](=O)[O-] | C7H5ClN2O3
reactant | dimethylformamide | 240 ml | CN(C=O)C | C3H7NO
reactant | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | water | 240 ml | O | H2O
product | 2-chloro-5-nitrobenzonitrile | 81.3 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
